US09120777B2
I) tert-Butyl 4-(3-ethyl-2-oxo-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-1(2H)-yl)piperidine-1-carboxylate
Trifluoromethanesulfonic anhydride (1.76 mL) was added at 0 C to a mixture of tert-butyl 4-(3-ethyl-4-hydroxy-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate (1.12 g) in pyridine (17.4 mL), and the mixture was stirred at 0 C for 30 minutes in a nitrogen atmosphere. Water was added thereto, and then, the solvent was distilled off under reduced pressure. Water was added again to the residue, followed by extraction with ethyl acetate. The obtained organic layer was washed with 1 M hydrochloric acid and saturated saline in this order and dried over anhydrous magnesium sulfate, and then, the solvent was distilled off under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane/ethyl acetate) to obtain the title compound (1.14 g).

reactant | Trifluoromethanesulfonic anhydride | 1.76 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | tert-butyl 4-(3-ethyl-4-hydroxy-2-oxopyridin-1(2H)-yl)piperidine-1-carboxylate | 1.12 g | C(C)C=1C(N(C=CC1O)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C17H26N2O4
reactant | Water | O | H2O
solvent | pyridine | 17.4 mL | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 4-(3-ethyl-2-oxo-4-(((trifluoromethyl)sulfonyl)oxy)pyridin-1(2H)-yl)piperidine-1-carboxylate | 1.14 g | C(C)C=1C(N(C=CC1OS(=O)(=O)C(F)(F)F)C1CCN(CC1)C(=O)OC(C)(C)C)=O | C18H25F3N2O6S
